US05298652
The reaction of 5-(decyloxy)-2-(phenylmethoxy)benzoic acid chloride with diethyl iminodiacetate under conditions described in Example 80 gave N-(2-ethoxy-2-oxoethyl)-N-[5-(decyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester (82% yield, mp 37°-38°).

reactant | 5-(decyloxy)-2-(phenylmethoxy)benzoic acid chloride | C(CCCCCCCCC)OC=1C=CC(=C(C(=O)Cl)C1)OCC1=CC=CC=C1 | C24H31ClO3
reactant | diethyl iminodiacetate | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
product | N-(2-ethoxy-2-oxoethyl)-N-[5-(decyloxy)-2-(phenylmethoxy)benzoyl]glycine ethyl ester | 82% yield | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCCCCC)OCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C32H45NO7
